US05986115
18.96 g of 7α-(5-chloropentyl)-estr-4-ene-3,17-dione is dissolved in 350 ml of anhydrous acetonitrile and mixed under inert gas at 80° C. with a solution of 4.36 g of lithium bromide and 22.5 g of copper(II) bromide in 390 ml of anhydrous acetonitrile. It is stirred for 5 more minutes, the mixture is cooled in an ice bath and mixed with water and ethyl acetate. The organic phase is shaken out with saturated sodium bicarbonate solution, the aqueous phase with ethyl acetate, the combined organic phases with saturated common salt solution, dried with sodium sulfate and concentrated by evaporation in a vacuum. The raw yield of 19.1 g is chromatographed on silica gel in hexane and ethyl acetate, whereby 10.0 g of oily 7α-(5-chloropentyl)-3-hydroxy-estra-1,3,5(10)-trien-17-one is obtained, which can be crystallized from hexane/dichloromethane.

reactant | 7α-(5-chloropentyl)-estr-4-ene-3,17-dione | 18.96 g | ClCCCCC[C@H]1[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@H]2CCC(C=C2C1)=O)=O | C23H33ClO2
reactant | lithium bromide | 4.36 g | [Br-].[Li+]
reactant | water | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 350 ml | C(C)#N | C2H3N
solvent | acetonitrile | 390 ml | C(C)#N | C2H3N
catalyst | copper(II) bromide | 22.5 g | [Cu](Br)Br
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7α-(5-chloropentyl)-3-hydroxy-estra-1,3,5(10)-trien-17-one | 10.0 g | ClCCCCC[C@H]1[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2C=2C=CC(=CC2C1)O)=O | C23H31ClO2
